US08426420B2
i) 5-Hydroxy-1-(4-trifluoromethyl-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester
A solution of 6.83 g 4-(trifluoromethyl)phenylhydrazine and 9.05 g diethyl oxalacetate sodium salt in 120 ml acetic acid was stirred at 100° C. for 2 h. The product precipitated was filtered, codistilled twice with toluene and suspended with heptane/ethyl acetate 3:1. The suspension was filtered again and the cude product obtained dried in vacuo.

reactant | 4-(trifluoromethyl)phenylhydrazine | 6.83 g | FC(C1=CC=C(C=C1)NN)(F)F | C7H7F3N2
reactant | diethyl oxalacetate sodium salt | 9.05 g | [Na].C(CC(=O)C(=O)OCC)(=O)OCC
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 5-Hydroxy-1-(4-trifluoromethyl-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)O)C1=CC=C(C=C1)C(F)(F)F | C13H11F3N2O3
